Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13],4.9155445095
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],1.9868237142900005
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.90698372035
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.98219074357
[C:1].[C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],-3.9265379412
[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.42359036724
[C:2]([H:3])([H:4])[C:5](=[O:6])[H:7].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5](=[O:6])[H:7],-3.58832299485
[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],1.05358700488
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2],4.8603640327
[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.7397122928
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-8.21105296388
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-0.7737046960780001
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.07514922856
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]([H:9])([H:10])[H:11].[H:7],4.38801857891
[C:6]([H:7])[O:8][H:9].[H:1][C:2]#[C:3][O:4][C:5]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9],-4.38800701603
[C:4]([H:5])([H:6])=[C:7][H:8].[O:1]=[C:2]([H:3])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[C:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],2.35984705025
[H:1][C:2][O:3][C:4]([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:9]([H:10])[H:11].[O:7][H:8],4.06809613719
[C:1](=[C:2]([H:3])/[C:5]([H:6])=[C:9]/[C:10]([H:11])([H:12])[H:13])([H:4])[H:8].[C:7]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.00046568627
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],4.13600560837
[H:10].[H:1]/[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.25724176806
[C:9][H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-10.5905473836
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[O:1],6.2798638198
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10].[H:1][C:2]#[C:3],4.93495073584
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:10][H:11].[H:9]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-2.15491356693
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.90056326799
[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])[H:12].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.0208332771599995
[H:6].[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.95328975274
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-2.08525449902
